US07388027B2
2A. (4-Cyanonaphthalen-1-yl)acetic acid methyl ester
To a solution of 4-methyl-1-cyanonaphthalene (4.35 g, 25.9 mmol) in THF (100 mL) was cooled to −78° C. and treated with commercially available LDA (2 M, 60 mL). The reaction mixture was then warmed to 0° C. and maintained at 0° C. for 30 min. The resulting red-colored solution was cooled to −78° C. and methyl chloroformate (10 mL, 130 mmol) was added. The reaction mixture was stirred while warming to rt until the displacement was complete (4 h) and then quenched with sat'd NH4Cl. The THF layer was evaporated and extracted with EtOAc (3×20 mL). The EtOAc was dried over Na2SO4 and concentrated in vacuo to afford an oil.

reactant | 4-methyl-1-cyanonaphthalene | 25.9 mmol, 4.35 g | CC1=CC=C(C2=CC=CC=C12)C#N | C12H9N
reactant | LDA | 2 M, 60 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl chloroformate | 130 mmol, 10 mL | ClC(=O)OC | C2H3ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-Cyanonaphthalen-1-yl)acetic acid methyl ester | COC(CC1=CC=C(C2=CC=CC=C12)C#N)=O | C14H11NO2
